US05280032
0.62 g of N,N'-dicyclohexylcarbodiimide was added to a mixture of 0.7 g of 2-(2-aminoethoxy)-1-(1-naphthyl)ethanol, 0.37 g of nicotinic acid, 0.41 g of 1-hydroxybenzotriazole, 0.42 ml of triethylamine and 4 ml of tetrahydrofuran with ice cooling. The resulting mixture was stirred at the same temperature for 5 minutes and further at room temperature for 1 hour. To the reaction mixture was added 6 ml of ethyl acetate. The insolubles were removed by filtration. To the filtrate were added 15 ml of ethyl acetate and 20 ml of water. The resulting mixture was adjusted to pH 2 with 6N hydrochloric acid. The aqueous layer was separated. The organic layer was extracted twice each with 10 ml of water. The extracts were combined with the previsously separated aqueous layer. To the combined aqueous layer was added 30 ml of chloroform and the resulting mixture was adjusted to pH 10.5 with potassium carbonate. The organic layer was separated, washed with water, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by column chromatography (eluant: chloroform/ethanol=10/1) to obtain an oily product. The oily product was dissolved in 7 ml of acetone. To the solution was added 0.43 ml of a 5N dry hydrogen chloride-ethanol solution. The resulting mixture was stirred at room temperature for 1 hour. To the reaction mixture was added 3 ml of diethyl ether. The resulting mixture was stirred at the same temperature for 1 hour. The resulting crystals were collected by filtration and dried to obtain 0.67 g of 1-(1-naphthyl)-2-[2-(nicotinoylamino)ethoxy]ethanol hydrochloride (compound no. 269).

reactant | N,N'-dicyclohexylcarbodiimide | 0.62 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-(2-aminoethoxy)-1-(1-naphthyl)ethanol | 0.7 g | NCCOCC(O)C1=CC=CC2=CC=CC=C12 | C14H17NO2
reactant | nicotinic acid | 0.37 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | 1-hydroxybenzotriazole | 0.41 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | hydrogen chloride ethanol | 5N | Cl.C(C)O
solvent | acetone | 7 ml | CC(=O)C | C3H6O
solvent | diethyl ether | 3 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.42 ml | C(C)N(CC)CC | C6H15N
product | 1-(1-naphthyl)-2-[2-(nicotinoylamino)ethoxy]ethanol hydrochloride | 0.67 g | Cl.C1(=CC=CC2=CC=CC=C12)C(COCCNC(C1=CN=CC=C1)=O)O | InChI=1S/C20H20N2O3.ClH/c23-19(18-9-3-6-15-5-1-2-8-17(15)18)14-25-12-11-22-20(24)16-7-4-10-21-13-16;/h1-10,13,19,23H,11-12,14H2,(H,22,24);1H
